US08119654B2
A suspension of methyl 3-cyano-2-methylbenzoate (10.6 g, 60.5 mmol), NBS (16.2 g, 90.7 mmol) and azobisisobutyronitrile (AIBN) (100 mg) in tetrachloromethane (200 mL) was refluxed under nitrogen atmosphere for 6 hours. TLC analysis indicated the complete consumption of methyl 3-cyano-2-methylbenzoate (TLC solvent: 10% ethyl acetate in hexane). The reaction mixture was filtered and washed with chloroform (3×20 mL). The combined filtrate and washings were concentrated under reduced pressure. The residue was washed through a short column of silica gel using 10% ethyl acetate in hexanes as an eluent. The eluent was concentrated and the resultant product dried under vacuum overnight to provide 15.1 g of methyl 2-bromomethyl-3-cyanobenzoate (98% yield). 1H NMR spectrum (in DMSO-d6): δ 8.15 (d, J=8.0 Hz, 1H); 8.12 (d, J=7.9 Hz, 1H); 7.67 (t, 1H); 5.04 (s, 2H); 3.89 (s, 3H).

reactant | methyl 3-cyano-2-methylbenzoate | 60.5 mmol, 10.6 g | C(#N)C=1C(=C(C(=O)OC)C=CC1)C | C10H9NO2
reactant | NBS | 90.7 mmol, 16.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | tetrachloromethane | 200 mL | ClC(Cl)(Cl)Cl | CCl4
catalyst | azobisisobutyronitrile | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | methyl 2-bromomethyl-3-cyanobenzoate | 15.1 g, 98% yield | BrCC1=C(C(=O)OC)C=CC=C1C#N | C10H8BrNO2
